US08067408B2
1,1-Dimethylethyl {[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-4-methyl-3-biphenylyl]methyl}carbamate
1,1-Dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate (2.7 g, 9.0 mmol), Pd(OAc)2 (81 mg, 0.36 mmol), dicyclohexyl[2′-(methyloxy)-1,1′-binaphthalen-2-yl]phosphane (216 mg, 0.45 mmol) and K3PO4 (2.5 g, 11.7 mmol) were dissolved in dioxane (50 mL). The mixture was heated at 80° C. for 30 min, and then [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid (3.1 g, 11.7 mmol) was added. The mixture reaction was stirred at reflux for two days. The solvent was removed under reduced pressure, then diluted with CH2Cl2 (100 mL). The organic layer was washed with water (30 mL), brine (30 mL), and dried over Na2SO4. After removing the solvent, 3.6 g of the crude product 1,1-dimethylethyl {[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-4-methyl-3-biphenylyl]methyl}carbamate was obtained. Yield: 90%.

reactant | 1,1-Dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate | 9.0 mmol, 2.7 g | BrC=1C=CC(=C(C1)CNC(OC(C)(C)C)=O)C | C13H18BrNO2
reactant | K3PO4 | 11.7 mmol, 2.5 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid | 11.7 mmol, 3.1 g | CC(C)(C)[Si](OCC=1C=C(C=CC1)B(O)O)(C)C | C13H23BO3Si
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.36 mmol, 81 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dicyclohexyl[2′-(methyloxy)-1,1′-binaphthalen-2-yl]phosphane | 0.45 mmol, 216 mg | C1(CCCCC1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)OC)C1CCCCC1 | C33H37OP
product | 1,1-Dimethylethyl {[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-4-methyl-3-biphenylyl]methyl}carbamate | 3.6 g, Yield: 90% | CC(C)(C)[Si](OCC=1C=C(C=CC1)C1=CC(=C(C=C1)C)CNC(OC(C)(C)C)=O)(C)C | C26H39NO3Si
